US07504401B2
3-Bromo-5-(pyridine-3-carbonyl)-phenyl]-carbamic acid benzyl ester was converted to [3-(pyridine-3-carbonyl)-5-(1-triisopropylsilanyl-1H-indol-4-yl)-phenyl]-carbamic acid benzyl ester, then deprotected to give [3-(1H-indol-4-yl)-5-(pyridine-3-carbonyl)-phenyl]-carbamic acid benzyl ester by the method of Example 35. 1H NMR (400 MHz, methanol-d4): δ 9.07 (s, 1H), 8.77 (d, J=4.8 Hz, 1H), 8.57 (s, 1H), 8.14 (dt, J=4.9, 2.6 Hz, 1H), 8.08 (s, 1H), 7.84 (s, 1H), 7.77 (t, J=1.5 Hz, 1H), 7.42-7.29 (m, 8H), 7.26-7.13 (m, 3H), 6.69 (s, 1H), 5.20 (s, 2H).

reactant | carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N)=O | C8H9NO2
reactant | [3-(pyridine-3-carbonyl)-5-(1-triisopropylsilanyl-1H-indol-4-yl)-phenyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC1=CC(=CC(=C1)C1=C2C=CN(C2=CC=C1)[Si](C(C)C)(C(C)C)C(C)C)C(=O)C=1C=NC=CC1)=O | C37H41N3O3Si
product | [3-(1H-indol-4-yl)-5-(pyridine-3-carbonyl)-phenyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC1=CC(=CC(=C1)C(=O)C=1C=NC=CC1)C1=C2C=CNC2=CC=C1)=O | C28H21N3O3
